US04971982
0.23 g of methanesulphonyl chloride was added to a solution of 0.59 g of 6-[3-(4-cyanophenoxy)-2-hydroxy- 3-methylbutyl]pyrimidine 1-oxide and 0.2 g of triethylamine in 10 ml of dichloromethane. The mixture was stirred at 20° C. for 2 hours and then a further 0.46 g of methanesulphonyl chloride and 0.4 g of triethylamine were added. After 2 hours a further 0.6 g of triethylamine was added and the mixture was stirred for 1.5 hours. The mixture was then washed with water and evaporated. The residue was chromatographed on silica gel using ethyl acetate for the elution to give 0.25 g of (E)-6-[3-(4-cyanophenoxy)-3-methyl-1-butenyl]pyrimidine 1-oxide in the form of a pale yellow solid of melting point 101°-102° C.

reactant | methanesulphonyl chloride | 0.23 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | 6-[3-(4-cyanophenoxy)-2-hydroxy- 3-methylbutyl]pyrimidine 1-oxide | 0.59 g | C(#N)C1=CC=C(OC(C(CC2=CC=NC=[N+]2[O-])O)(C)C)C=C1 | C16H17N3O3
reactant | triethylamine | 0.2 g | C(C)N(CC)CC | C6H15N
reactant | methanesulphonyl chloride | 0.46 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | triethylamine | 0.4 g | C(C)N(CC)CC | C6H15N
reactant | triethylamine | 0.6 g | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | (E)-6-[3-(4-cyanophenoxy)-3-methyl-1-butenyl]pyrimidine 1-oxide | 0.25 g | C(#N)C1=CC=C(OC(/C=C/C2=CC=NC=[N+]2[O-])(C)C)C=C1 | C16H15N3O2
